US08114871B2
5-tert-Butyl 1-ethyl 6,6-dimethyl-3-(picolinamido)pyrrolo[3,4-c]pyrazole-1,5(4H,6H)-dicarboxylate
To a solution of 5-tert-butyl 1-ethyl 3-amino-6,6-dimethyl-4,6-dihydropyrrolo[3,4-c]pyrazole-1,5-dicarboxylate, A1(I), (7.32 g, 22.56 mmol) and DIPEA (12 mL) in CH2Cl2 (60 mL), picolinoyl chloride hydrochloride, A1(II), (4.82 g, 27.07 mmol) was added slowly. The reaction was stirred at room temperature for 2 hrs. The reaction mixture was diluted with CH2Cl2(50 mL), washed with water (2×30 mL), sat. NaCl (brine), and dried over MgSO4, filtered and concentrated to give A1(III) (9.12 g, 94% yield). 1H NMR (400 MHz, CDCl3-d) δ ppm 1.39-1.50 (m, 2 H) 1.49-1.58 (m, 10 H) 1.72 (s, 3 H) 1.78 (s, 3 H) 4.63 (q, J=7.07 Hz, 2 H) 4.81 (d, J=19.45 Hz, 2 H) 7.46-7.58 (m, 1 H) 7.82-7.97 (m, 1 H) 8.25 (dd, J=7.71, 3.41 Hz, 1 H) 8.73 (dd, J=9.60, 4.55 Hz, 1 H).

reactant | 5-tert-butyl 1-ethyl 3-amino-6,6-dimethyl-4,6-dihydropyrrolo[3,4-c]pyrazole-1,5-dicarboxylate | NC=1C2=C(N(N1)C(=O)OCC)C(N(C2)C(=O)OC(C)(C)C)(C)C | C15H24N4O4
reactant | DIPEA | 12 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | picolinoyl chloride hydrochloride | Cl.N1=C(C=CC=C1)C(=O)Cl
solvent | CH2Cl2 | 60 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 5-tert-Butyl 1-ethyl 6,6-dimethyl-3-(picolinamido)pyrrolo[3,4-c]pyrazole-1,5(4H,6H)-dicarboxylate | 94% yield | CC1(N(CC2=C1N(N=C2NC(C2=NC=CC=C2)=O)C(=O)OCC)C(=O)OC(C)(C)C)C | C21H27N5O5
